US08975400B2
5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (12.28 mg, 0.307 mmol), 5-(hydroxymethyl)-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile (60.2 mg, 0.205 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroimidazo-[1,2-c]pyrimidin-5(1H)-one (38 mg, 0.205 mmol).

reactant | sodium hydride | 0.307 mmol, 12.28 mg | [H-].[Na+]
reactant | 5-(hydroxymethyl)-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile | 0.205 mmol, 60.2 mg | OCC=1C=CC(=C(C#N)C1)OC1=CC(=NC=C1)C(F)(F)F | C14H9F3N2O2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo-[1,2-c]pyrimidin-5(1H)-one | 0.205 mmol, 38 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile | CN1CCN2C(N=C(C=C21)OCC=2C=CC(=C(C#N)C2)OC2=CC(=NC=C2)C(F)(F)F)=O | C21H16F3N5O3
